* File: INVX2.pex.netlist
* Created: Wed Jan  2 18:43:44 2008
* Program "Calibre xRC"
* Version "v2007.2_34.24"
* 
.subckt INVX2  A GND VDD Y
* 
MM1 Y A GND GND NMOS_VTL L=5e-08 W=5e-07
MM0 Y A VDD VDD PMOS_VTL L=5e-08 W=1e-06
c_4 A 0 0.166103f
c_7 GND 0 0.0679337f
c_10 VDD 0 0.0915331f
c_14 Y 0 0.0930191f
*
.include "INVX2.pex.netlist.INVX2.pxi"
*
.ends
*
*
